US07737149B2
Ethyl 5-[[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]carbamoyl]pyridine-2-carboxylate
Preparation was analogous to that described for Example 67, except using 5-[[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]carbamoyl]pyridine-2-carboxylic acid (55 mg, 0.15 mmol, 1 eq) in ethanol (0.5 mL) to give title compound as a white solid (9 mg, 15% yield); 1H NMR (400.13 MHz, DMSO) δ 1.40 (3H, t), 2.97 (4H, s), 3.79 (3H, s), 4.44 (2H, q), 6.54 (1H, s), 6.8 (1H, m), 6.87 (2H, m), 7.25 (1H, t), 8.19 (1H, d), 8.52 (1H, m), 9.25 (1H, s), 11.17 (1H, s), 12.3 (1H, s) MS m/z 395 (MH+)

reactant | 5-[[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]carbamoyl]pyridine-2-carboxylic acid | 0.15 mmol, 55 mg, 1 eq | COC=1C=C(C=CC1)CCC=1C=C(NN1)NC(=O)C=1C=CC(=NC1)C(=O)O | C19H18N4O4
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
product | Ethyl 5-[[5-[2-(3-methoxyphenyl)ethyl]-2H-pyrazol-3-yl]carbamoyl]pyridine-2-carboxylate | 9 mg, 15% yield | COC=1C=C(C=CC1)CCC=1C=C(NN1)NC(=O)C=1C=CC(=NC1)C(=O)OCC | C21H22N4O4
